US05462954
2-Methyl-2-(1H-tetrazol-5-yl)-7-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)heptane
A mixture of 1.1 g of 2-methyl-2-(1H-tetrazol-5-yl)-7-(2-ethyl-4-(4-fluorophenyl)-5-benzyloxyphenoxy)heptane, 1 g of 10% palladium on carbon, and 200 mL of ethanol was hydrogenated on a Parr™ apparatus at 35-40 psi for 2 hours. The mixture was filtered and the filtrate evaporated in vacuo. The residue was chromatographed on silica gel eluting with dichloromethane/methanol providing 750 mg (84%) of the desired title product. MS, NMR. Crystallization from diethyl ether/hexanes gave material with a melting point of 135°-137° C.; when crystallized from toluene, the melting point was 142°-143° C.

reactant | 2-methyl-2-(1H-tetrazol-5-yl)-7-(2-ethyl-4-(4-fluorophenyl)-5-benzyloxyphenoxy)heptane | 1.1 g | CC(C)(CCCCCOC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)F)CC)C1=NN=NN1 | C30H35FN4O2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2-Methyl-2-(1H-tetrazol-5-yl)-7-(2-ethyl-4-(4-fluorophenyl)-5-hydroxyphenoxy)heptane | CC(C)(CCCCCOC1=C(C=C(C(=C1)O)C1=CC=C(C=C1)F)CC)C1=NN=NN1 | C23H29FN4O2
